US07371852B2
Magnesium (1.2 equiv.) is stirred in anhydrous ether under a nitrogen atmosphere and a catalytic amount of iodine is added. The mixture is heated to reflux and 4-bromomethylpyridine (1 equiv.) is added. The reaction is stirred until formation of the Grignard reagent is complete and 9-phthalimidononanal (1.5 equiv.) is added. The reaction mixture is stirred until completion, quenched with ammonium chloride, extracted with brine and concentrated in vacuo. The crude product is purified by silica gel chromatography to give 1-hydroxy-1-(4-pyridinyl)-10-phthalimidodecane.

reactant | Magnesium | 1.2 equiv. | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromomethylpyridine | 1 equiv. | BrCC1=CC=NC=C1 | C6H6BrN
reactant | 9-phthalimidononanal | 1.5 equiv. | C1(C=2C(C(N1CCCCCCCCC=O)=O)=CC=CC2)=O | C17H21NO3
reactant | ether | CCOCC | C4H10O
product | 1-hydroxy-1-(4-pyridinyl)-10-phthalimidodecane | OC(CCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=NC=C2 | C23H28N2O3
